US04349552
The reaction of 2-norbornanecarboxlic acid and diphenylphosphoryl azide in a solution of triethylamine and benzene provided a solution comprising 2-norbornyl isocyanate (I.R.: 2270 cm-1), which was reacted with 5-fluorouracil to provide 1-[N-(2-norbornyl)carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 1.

reactant | 2-norbornanecarboxlic acid | C12C(CC(CC1)C2)C(=O)O | C8H12O2
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-norbornyl isocyanate | C12C(CC(CC1)C2)N=C=O | C8H11NO
